US08202866B2
(E)-N-(2-Amino-phenyl)-3-{4-[1-(4-chloro-phenylcarbamoyl)-2-(3-diethylamino-pyrrolidin-1-yl)-ethyl]phenyl}-acrylamide
To a solution of (E)-[2-(3-{4-[1-(4-chloro-phenylcarbamoyl)-2-(3-diethylamino-pyrrolidin-1-yl)-ethyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester (528 mg, 0.8 mmol) in CH2Cl2 (10 mL) was added CF3COOH (612 uL, 8 mmol). The mixture was stirred for about 4 h, and then NaHCO3 was added to the reaction system. After filtration of solids, the crude mixture was purified by preparative HPLC to obtain a light yellow solid. MS: calc'd 560 (MH+), exp 560 (MH+). 1H NMR (d4-MeOD, 400 MHz), 7.66 (d, 1H, J=15.6 Hz), 7.60-7.57 (m, 4H), 7.49 (d, 2H, J=8.0 Hz), 7.29 (d, 2H, J=8.8 Hz), 7.22 (d, 1H, J=7.6 Hz), 7.06 (t, 1H, J=7.6 Hz), 6.89 (d, 1H, J=8.8 Hz), 6.84 (d, 1H, J=15.6 Hz), 6.76 (t, 1H, J=7.6 Hz), 3.94 (m, 1H), 3.48-3.35 (m, 2H), 2.82-2.53 (broad m, 9H), 2.01-1.95 (m, 1H), 1.74-1.71 (m, 1H), 1.00 (q, 6H, J=7.0 Hz).

reactant | (E)-[2-(3-{4-[1-(4-chloro-phenylcarbamoyl)-2-(3-diethylamino-pyrrolidin-1-yl)-ethyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester | 0.8 mmol, 528 mg | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C(CN1CC(CC1)N(CC)CC)C(NC1=CC=C(C=C1)Cl)=O)=O)=O | C37H46ClN5O4
reactant | CF3COOH | 8 mmol, 612 uL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-(2-Amino-phenyl)-3-{4-[1-(4-chloro-phenylcarbamoyl)-2-(3-diethylamino-pyrrolidin-1-yl)-ethyl]phenyl}-acrylamide | NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C(CN1CC(CC1)N(CC)CC)C(NC1=CC=C(C=C1)Cl)=O)=O | C32H38ClN5O2
